US04579857
Methyl-[3-(2-oxo-4-phenyl-3-imidazolidinyl)propyldithio]formate
To a solution of 6.7 g of 1-(3-mercaptopropyl-5-phenyl-2-imidazolidinone in 70 ml of methanol, cooled to 0°, there is added dropwise 3.9 g of methoxy carbonylsulfenyl chloride over a fifteen minute period. The solution is allowed to stir at 0° for 1 hour and at room temperature for four hours. The reaction is concentrated in vacuo and the residual oil eluted on a silica gel column with ethyl acetate. The product is purified further by recrystallization from isopropyl ether, m.p. 98°-100° C.

reactant | 3-mercaptopropyl-5-phenyl-2-imidazolidinone | SCCCN1C(NCC1C1=CC=CC=C1)=O | C12H16N2OS
reactant | methoxy carbonylsulfenyl chloride | 3.9 g | COC(=O)SCl | C2H3ClO2S
solvent | methanol | 70 ml | CO | CH4O
product | Methyl-[3-(2-oxo-4-phenyl-3-imidazolidinyl)propyldithio]formate | COC(=O)SSCCCN1C(NCC1C1=CC=CC=C1)=O | C14H18N2O3S2
